Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: NEUROLOGY
 
Allergies: 
No Allergies/ADRs on File
 
Attending: ___
 
Chief Complaint:
Unresponsiveness
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
Ms. ___ is a ___ year old woman with CHF and afib on Coumadin
who presents as a transfer from OSH after she was found
unresponsive by her friend/neighbor earlier this morning around
11 AM. The patient is typically very independent ___
apartment complex for seniors.  Patient was last known well
yesterday p.m. when she was with her dear friend ___ and she
seemed in her normal state of health.  At 8 ___ she went to bed. 
The next morning, her friend ___ was calling her to discuss
plans for the day but she had no answer.  Her friend ___ then
called her son stairs the next 4 to check on the patient.  They
found her lying in her reclining chair where she usually sleeps
with her mouth open and eyes closed unresponsive to voice or
touch.  Called ___ and they brought her to an outside hospital. 
At the outside hospital, stat noncontrast head CT was done which
revealed significant large right IPH and right subdural 
hematoma.

 The patient was transferred to ___ for further here at ___, neurosurgery was
consulted but they felt given the extent of the bleed damage, 
and
her age no surgical intervention was appropriate.  The patient's
family was contacted and they arrived to the bedside.  Neurology
was also consulted upon discussion with the family, they decided
that he would be consistent with her wishes to make her comfort
measures only.
 
Past Medical History:
CHF
Afib

 
Social History:
Lives in ___ in an apartment complex for seniors, was very
independent and lived alone. She has many children and
grandchildren close by in the area. She did not smoke or drink
ETOH. She was very independent in her ADLs. 

 - Modified Rankin Scale: 
 [X] 0: No symptoms 
 [] 1: No significant disability - able to carry out all usual
activities despite some symptoms 
 [] 2: Slight disability: able to look after own affairs without
assistance but unable to carry out all previous activities 
 [] 3: Moderate disability: requires some help but able to walk
unassisted 
 [] 4: Moderately severe disability: unable to attend to own
bodily needs without assistance and unable to walk unassisted 
 [] 5: Severe disability: requires constant nursing care and
attention, bedridden, incontinent 
 [] 6: Dead 
 
Family History:
Non-contributory
 
Physical Exam:
ADMISSION EXAMINATION

Neurologic Examination: 
 -Patient is laying with eyes closed, rapid shallow breathing.
Does not respond to voice, does not consistently follow 
commands.
She did squeeze fingers to command on the R, but did this once
and did not follow any other commands again such as 
open your eyes". Her L pupil is irregular and unreactive. Her R
pupil is small and sluggishly constricts. Her cough and gag were
not tested as patient is not intubated. Her corneal reflexes 
were
present. 

She did withdraw briskly on the R to noxious. On the L, she
withdraws her left arm in the plane of the bed vigorously to
noxious. She does the same with the left leg. She has an upgoing
toe on the L. 

DISCHARGE EXAMINATION
 Vitals: T: 99.0 RR: 18
 General: sleeping comfortably
 HEENT: NC/AT
 Pulmonary: breathing comfortably, no tachypnea or increased WOB
 Cardiac: tachycardic and irregular, systolic murmur at LLSB,
skin warm, well-perfused

 
Pertinent Results:
HEMATOLOGY AND CHEMISTRIES

___ 01:03PM BLOOD WBC-14.7* RBC-3.48* Hgb-11.4 Hct-34.6 
MCV-99* MCH-32.8* MCHC-32.9 RDW-14.7 RDWSD-53.6* Plt ___
___ 01:03PM BLOOD ___
___ 01:03PM BLOOD UreaN-10 Creat-0.6
___ 01:03PM BLOOD CK(CPK)-58
___ 01:03PM BLOOD ASA-NEG Ethanol-NEG Acetmnp-NEG 
Bnzodzp-NEG Barbitr-NEG Tricycl-NEG
___ 01:11PM BLOOD Type-ART pO2-80* pCO2-28* pH-7.48* 
calTCO2-21 Base XS-0
___ 01:11PM BLOOD Glucose-169* Lactate-2.3* Na-134 K-3.8 
Cl-100
___ 01:11PM BLOOD Hgb-12.2 calcHCT-37 O2 Sat-92 COHgb-5 
MetHgb-0
 
Brief Hospital Course:
HOSPITAL COURSE BY PROBLEM

1. Right frontotemporal intraparenchymal hemorrhage and subdural 
hematoma: Following presentation to the Emergency Department, 
Ms. ___ was evaluated by the Neurosurgery service, who 
recommended against surgical intervention due to the size of Ms. 
___ IPH. Following discussion with her family, she was 
accordingly switched to comfort measures care on admission. Her 
symptoms were well-managed with as-needed bolus doses of 
morphine as well as rectal acetaminophen for tactile fevers. She 
was subsequently discharged to hospice.

AHA/ASA Core Measures for Intracerebral Hemorrhage  
 1. Dysphagia screening before any PO intake? () Yes - (x) No 
[reason: CMO on admission] 
 2. DVT Prophylaxis administered? () Yes - (x) No [reason: CMO 
on admission]
 3. Smoking cessation counseling given? () Yes - (x) No [reason 
() non-smoker - (x) unable to participate]  
 4. Stroke education (personal modifiable risk factors, how to 
activate EMS for stroke, stroke warning signs and symptoms, 
prescribed medications, need for followup) given (verbally or 
written)? (x) Yes - () No  
 5. Assessment for rehabilitation and/or rehab services 
considered? () Yes - (x) No  [reason: CMO on admission]
 
Medications on Admission:
1. Warfarin 2.5 mg PO DAILY16 
2. Digoxin Dose is Unknown  PO DAILY 
3. Furosemide Dose is Unknown  PO DAILY 
4. Metoprolol Succinate XL Dose is Unknown  PO DAILY 
5. Spironolactone Dose is Unknown  PO DAILY 

 
Discharge Medications:
1.  Acetaminophen 650 mg PR Q4H:PRN fever  
2.  LORazepam 1 mg IV Q4H:PRN agitation  
3.  Morphine Sulfate (Concentrated Oral Solution) 20 mg/mL ___ 
mg SL Q2H:PRN pain or dyspnea  
4.  Morphine Sulfate ___ mg IV Q15MIN:PRN discomfort , 
respiratory distress  

 
Discharge Disposition:
Extended Care
 
Discharge Diagnosis:
Right intraparenchymal hemorrhage and subdural hematoma

 
Discharge Condition:
Level of Consciousness: Lethargic and not arousable.
Activity Status: Bedbound.

 
Discharge Instructions:
Dear Ms. ___,

You were transferred to ___ ___ ___ for 
evaluation of a large bleed in your brain. You were seen by the 
Neurosurgery service, who did not feel that surgery would be 
appropriate for your bleed. After a discussion with your family, 
you were transitioned to comfort measures care and discharged to 
hospice.

It was a pleasure taking care of you at ___.

Sincerely,
Neurology at ___
 
Followup Instructions:
___